US07189738B2
5-Chloro-N-{2-[2-(1-ethyl4-piperidinyl)ethyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide
50.1 mg (0.12 mmol) of 5-chloro-N-{1,3-dioxo-2-[2-(4-piperidinyl)ethyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide are dissolved in 1 ml of 1,4-dioxane, and 25 μl (0.144 mmol) of N,N-diisopropylethylamine and 10 μl (0.12 mmol) of iodoethane are added. The mixture is stirred at room temperature overnight and, after concentration, chromatographed on silica gel (dichloromethane/methanol 97:3).

reactant | 5-chloro-N-{1,3-dioxo-2-[2-(4-piperidinyl)ethyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide | 0.12 mmol, 50.1 mg | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CCC1CCNCC1)=O | C20H20ClN3O3S
reactant | N,N-diisopropylethylamine | 0.144 mmol, 25 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | iodoethane | 0.12 mmol, 10 μl | ICC | C2H5I
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 5-Chloro-N-{2-[2-(1-ethyl4-piperidinyl)ethyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CCC1CCN(CC1)CC)=O | C22H24ClN3O3S
